US05276049
1-(3-Guanidino-phenyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one hydrochloride
Prepared from 1-(3-amino-phenyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl] -imidazolidin-2-one hydrochloride by refluxing for three hours with cyanamide in dioxane.

reactant | 1-(3-amino-phenyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl] -imidazolidin-2-one hydrochloride | Cl.NC=1C=C(C=CC1)N1C(N(CC1)C1=CC=C(C=C1)CCC(=O)OC)=O
reactant | cyanamide | N#CN | CH2N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(3-Guanidino-phenyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one hydrochloride | Cl.N(C(=N)N)C=1C=C(C=CC1)N1C(N(CC1)C1=CC=C(C=C1)CCC(=O)OC)=O | InChI=1S/C20H23N5O3.ClH/c1-28-18(26)10-7-14-5-8-16(9-6-14)24-11-12-25(20(24)27)17-4-2-3-15(13-17)23-19(21)22;/h2-6,8-9,13H,7,10-12H2,1H3,(H4,21,22,23);1H
